US08669234B2
A mixture of 4-Bromo-benzamidine (0.202 g) and potassium carbonate (0.237 g) in H2O (0.286 mL) and THF (1.1 mL) was heated to 65° C. 2-(2-Chloro-acetyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.106 g) in THF (0.7 mL) was added over 1 hour and reaction mixture heated at 65° C. for 18 hours. Reaction mixture was concentrated to ˜0.5 mL and extracted with ethyl acetate. Organic layer was washed with H2O, brine and dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexanes) to give 2-[2-(4-Bromo-phenyl)-3H-imidazol-4-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.075 g) as an orange film: LCMS-EST: calc'd for C18H23BrN3O2: 393.30 (M+H+). Found: 391.8, 393.83 (M+H+).

reactant | 4-Bromo-benzamidine | 0.202 g | BrC1=CC=C(C(=N)N)C=C1 | C7H7BrN2
reactant | potassium carbonate | 0.237 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-Chloro-acetyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.106 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(CCl)=O | C11H18ClNO3
solvent | H2O | 0.286 mL | O | H2O
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
product | 2-[2-(4-Bromo-phenyl)-3H-imidazol-4-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.075 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=NC1)C1=CC=C(C=C1)Br | C18H22BrN3O2
